### PR TITLE
Integrate translation and proof reconstruction to close goals.

### PR DESCRIPTION
**Pull request by abdoo8080**

### CODE REVIEW

File: Smt/Query.lean [hunk 1]
```diff
@@ -250,21 +250,21 @@ def addCommand (cmd : Command) (cmds : List Command) : MetaM (List Command) := d
...
+    trace[smt.debug.translate.query] "Goal: {← inferType goal}"
+    trace[smt.debug.translate.query] "Provided Hints: {hs}"
     let ((_, st), _) ← QueryBuilderM.buildDependencyGraph goal
       |>.run { toDefine := hs : QueryBuilderM.Config }
       |>.run { : QueryBuilderM.State }
       |>.run { : TranslationM.State }
-    trace[smt.debug.query] "Dependency Graph: {st.graph}"
-    let (_, cmds) ← StateT.run (st.graph.dfs $ emitVertex st.commands) []
+    trace[smt.debug.translate.query] "Dependency Graph: {st.graph}"
+    let (_, cmds) ← StateT.run (st.graph.orderedDfs (hs ++ [goal]) (emitVertex st.commands)) []
```
Comment (Vtec234) [inline Smt/Query.lean:267]: Could you write a comment explaining why we need to traverse the graph in this particular order rather than the `g.vertices` order as before?

File: Test/Bool/Falsum.expected [hunk 2]
```diff
@@ -5,3 +5,8 @@ query:
 (check-sat)
 
 result: unsat
+failed to reconstruct proof: tactic 'apply' failed, failed to unify
+  (¬False ↔ True) → False
+with
```
Comment (Vtec234) [inline Test/Bool/Falsum.expected:10]: Is this a bug in proof reconstruction?

File: Test/Int/Let.expected [hunk 3]
```diff
@@ -3,48 +3,52 @@ f y = 10
...
 query:
 (declare-fun f (Int) Int)
+(assert (= (f 10) 10))
 (define-fun z () Int 10)
 (assert (not (= (f z) z)))
-(assert (= (f 10) 10))
 (check-sat)
 
 result: unsat
+failed to reconstruct proof: invalid 'simp', proposition expected
```
Comment (Vtec234) [inline Test/Int/Let.expected:30]: Bug in reconstruction?

File: Test/Solver/Proof.expected [hunk 4]
```diff
@@ -0,0 +1,23 @@
...
+import Smt.Reconstruction.Certifying.Boolean
+import Smt.Reconstruction.Certifying.Resolution
+import Smt.Reconstruction.Certifying.Factor
+import Smt.Reconstruction.Certifying.PermutateOr
+
+set_option maxRecDepth 10000
+set_option maxHeartbeats 500000
+
+
+theorem th0 : False → False :=
```
Comment (Vtec234) [inline Test/Solver/Proof.expected:19]: The Lean syntax here is not correct, the function has no body.

**Comment by Vtec234** [comment]
It's awesome that we can finally reconstruct some proofs! On a first pass I noticed that the reconstruction seems to be adding theorems to the environment with unhygienic (user-accessible) names, which it probably shouldn't. For example in
```lean
#check th0

theorem disjunctive_syllogism (p q : Prop) : p ∨ q → ¬p → q := by
  smt

#check th0
```
the first `#check` fails while the second one succeeds.

File: Smt/Query.lean (hunk 1 above)
Comment (abdoo8080) [reply Smt/Query.lean:269]: Done!

File: Test/Bool/Falsum.expected (hunk 2 above)
Comment (abdoo8080) [reply Test/Bool/Falsum.expected:10]: The proofs generated by cvc5 sometimes contain hypotheses that are not in the original SMT query because of how theory rewrites are implemented internally. Those rewrites are currently added as hypotheses to `th0` after the goal (i.e., `th0 : Not goal -> rrh -> False`), which causes issues with unification. We are changing cvc5 printer to move `rrh` to the front (the whole interface between cvc5 and Lean is still a work-in-progress). Some of those hypotheses are simple enough to "simp" our way through them, but the reset need to be delegated to the user.

File: Test/Int/Let.expected (hunk 3 above)
Comment (abdoo8080) [reply Test/Int/Let.expected:30]: Probably... This PR has already outgrown its purpose. I will look into this after merging the PR (Tomaz needs this PR to find and fix elaboration issues).

File: Test/Solver/Proof.expected (hunk 4 above)
Comment (abdoo8080) [reply Test/Solver/Proof.expected:19]: We also need to work on the cvc5 printer 😅. Long term, we agree with you that proof lifting should be done in Lean, but we will continue to do the lifting in cvc5 for the short term.

File: Test/Int/Let.expected (hunk 3 above)
Comment (Vtec234) [reply Test/Int/Let.expected:30]: Ah gotcha! Okay, let's remember the issues then but merge this now so that Tomaz can make progress.

**Review by Vtec234 — APPROVED** [review]
